Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pressure, palpitations
 
Major Surgical or Invasive Procedure:
TEE cardioversion - ___

 
History of Present Illness:
Mr. ___ is a ___ year old male with PMH notable for HTN and 
morbid obesity who presents with left sided chest pressure and 
chest pain.  
 Pt. was in his usual state of health until the day of 
presentation. The pt. woke up in the AM to use the restroom. He 
noted the sudden onset of left sided chest pain. Pt. describes 
the pain as a heavy pain, as if "someone was sitting on his 
chest" with radiation down the left arm. He has had a history of 
this in the past over the last several years. His usual left 
sided chest pain lasts ___ minutes and is usually associated 
with walking. He also notes palpitations with prior episodes and 
the episodes today. It also happens when he goes out drinking. 
He was drinking the night prior to this episode. This AM's pain 
lasted ___ minutes. He denies any significant SOB, 
lightheadedness, dizziness, leg swelling, or orthopnea. He does 
note for the last ___ years symptoms that sound similar to 
paroxysmal nocturnal dyspnea, being woken up in the middle of 
the night, needing to sit at the side of the bed to catch his 
breath. Denies recent fevers, chills, nausea, vomiting, 
abdominal pain, changes in voiding or bowel habits. Given 
persistence of symptomsd today, pt. called an ambulance and 
presented to the ED.  
 In the ED, initial vital signs were: 97.9, 140, 170/94, 18, 97% 
on RA  
 - Exam was notable for: irregularly irregular rhythm, 
tachycardia  
 - EKG revealed narrow complex tachycardia at rate 150bpm, left 
axis, non-specific ST-T wave changes in I and aVL, otherwise no 
concerning findings. SVT thought to be afib with RVR  
 - Labs were notable for: CBC/Coags pending, creat 1.1, lactate 
2.0, trop negative x2  
 - Imaging: CXR with trace left pleural effusion and atelectasis 
 
 - The patient was given: Metop 50 PO x2 and Metop 5mg IV x4  
 - Consults: Cardiology consulted and recommended xarelto 20mg 
daily. Given lack of response to metoprolol; pt. is to be 
admitted for a stress test.  
 Vitals prior to transfer were: 98.4, ___, 19, 98% on 
RA  
 Upon arrival to the floor, pt. feels better, no CP or 
palpitations.  
 
Past Medical History:
 - Question of OSA  
 - Morbid Obesity  
 - HTN  
 - Hx. of Anemia  
 
Social History:
___
Family History:
Significant hx. of hypertension. No hx. of DM. Maternal uncle 
with hx. of CAD. No hx. of CHF, sudden cardiac death, afib, or 
other arrhythmia.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
 VITALS: 99.0, 144/107, 114, 20, 97% on RA  
 GENERAL: Overweight, pleasant, well-appearing, in no apparent 
distress.  
 HEENT: Normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP not appreciable ___ 
body habitus.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Distant breath sounds, clear to auscultation 
bilaterally, without wheezes or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing, trace 
___ bilateral pitting edema.  
 SKIN: Without rash.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  

DISCHARGE PHYSICAL EXAM:
VS: 99.0 98.9 155/82 (144/107) 111 (114) 20 96-97%RA 
Wt 185.3kg
I/O: ___
GENERAL: Loud snoring, woke to physical stimulation. Obese in 
NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 10 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. irreg irreg, normal S1, S2. No m/r/g. No thrills, lifts. 
No S3 or S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: 1+ pitting edema equal bilateral halfway up shins. 
No cyanosis. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 
Pertinent Results:
ADMISSION LABS:
=============

___ 10:15PM BLOOD WBC-9.0 RBC-5.54 Hgb-12.2* Hct-40.2 
MCV-73* MCH-22.0* MCHC-30.3* RDW-17.3* RDWSD-42.4 Plt ___
___ 10:15PM BLOOD Neuts-59.9 ___ Monos-8.4 Eos-2.6 
Baso-0.7 Im ___ AbsNeut-5.39 AbsLymp-2.52 AbsMono-0.75 
AbsEos-0.23 AbsBaso-0.06
___ 10:15PM BLOOD ___ PTT-31.4 ___
___ 10:50AM BLOOD Glucose-106* UreaN-16 Creat-1.1 Na-141 
K-4.7 Cl-105 HCO3-23 AnGap-18
___ 10:50AM BLOOD cTropnT-<0.01
___ 05:05PM BLOOD cTropnT-<0.01
___ 08:15AM BLOOD cTropnT-<0.01
___ 10:50AM BLOOD Iron-52
___ 08:15AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.2
___ 10:50AM BLOOD calTIBC-311 Ferritn-143 TRF-239
___ 10:50AM BLOOD TSH-0.32
___ 11:03AM BLOOD Lactate-2.0

OTHER PERTINENT/DISCHARGE LABS:
=============
___ 08:15AM BLOOD WBC-8.0 RBC-5.55 Hgb-12.0* Hct-40.4 
MCV-73* MCH-21.6* MCHC-29.7* RDW-17.7* RDWSD-43.0 Plt ___
___ 08:15AM BLOOD Glucose-106* UreaN-24* Creat-1.4* Na-138 
K-4.2 Cl-103 HCO3-24 AnGap-15

IMAGING:
=======
CXR ___ - Trace left pleural effusion and atelectasis.

TEE ___- No SEC or thrombus in the ___.
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with PMH notable for HTN and 
morbid obesity who presents with left sided chest pressure and 
chest pain found to have new onset atrial fibrillation. 
 
 #Chest Pain / Palpitations / afib with RVR: Pt. presents with 
acute on chronic chest pain and palpitations found to have new 
afib with rapid rates. Chest pain may be due to rate-related 
ischemia in the setting of afib with RVR. Trops negative x3, no 
concerning ischemic changes on ECG. He was TEE cardioverted, 
though he started to desaturate during the procedure, likely for 
reasons that also contribute to obstructive sleep apnea. He was 
successfully converted to normal sinus rhythm. He was placed on 
higher dose metoprolol and initiated on rivaroxaban. He should 
undergo outpatient stress test and TTE to evaluate safety of 
flecainide as a rhythm controlling agent in the event that 
beta-blockade, treatment of obstructive sleep apnea, and alcohol 
cessation do not prevent recurrence of atrial fibrillation. TSH 
was WNL. Of note, his heart rate decreased when sleeping, and he 
required additional rate control during the day. While in afib, 
he had multiple long pauses noted on telemetry, a phenomenon 
seen in obstructive sleep apnea. 

 #HTN: Pt. with relatively controlled BPs, diastolic slightly 
high.  
 - continued home amlodipine

 #Microcytosis: Pt. with low MCV in the setting of normal H/H. 
Possibly related to a hemoglobinopathy or thalassemia. Iron 
studies showed no evidence of iron deficiency or anemia of 
chronic disease. Would consider outpatient hemoglobin 
electrophoresis.

 #Shortness of breath at night: Pt. with intermittent SOB that 
wakes him from sleep. Per record, this was noted by outpatient 
providers. Likely OSA given body habitus and telemetry pauses. 
Pt should undergo sleep study.

 #Obesity: Continue outpatient bariatric work-up  

TRANSITIONAL ISSUES:
-discharge weight: 185.3kg
-started on rivaroxaban, please evaluate need for ongoing 
treatment in 3 months
-increased metoprolol tartrate dose to 100mg BID
-patient had frequent pauses on telemetry when asleep, like due 
to sleep apnea. Recommend evaluation for formal sleep study
-patient will need formal TTE and outpatient stress test as part 
of evaluation for anti-arrhythmic medication
-consider outpatient hemoglobin electrophoresis to evaluate for 
hemoglobinopathy
-code status: full
-contact:  ___ (wife, ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 10 mg PO DAILY 
2. Metoprolol Tartrate 50 mg PO BID 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Rivaroxaban 20 mg PO DINNER 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*2
3. Metoprolol Tartrate 100 mg PO BID 
RX *metoprolol tartrate 100 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
atrial fibrillation with rapid ventricular rate

Secondary:
hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure caring for you at the ___ 
___. You were recently admitted with chest pain 
caused by a an irregular heart beat called atrial fibrillation. 
Your heart was shocked out of this rhythm and you improved.

You are being started on a new medication, Rivaroxaban, to help 
prevent blood clots. You will be on a higher dose of metoprolol 
to help keep your heart rate controlled. You will need to follow 
up with your primary care doctor, a sleep specialist, and an 
electrophysiologist (EP) doctor. You should avoid alcohol, as 
this puts your heart at risk of going back into atrial 
fibrillation.

It was a pleasure being part of your care.

Your ___ team
 
Followup Instructions:
___